Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ former smoker w EtOH cirrhosis pw SOB. She is s/p recent 
extended hospital stay ___ requiring EGD x 3, ___ 
for massive variceal bleed, s/p visceral perforation, and long 
ICU stay. She returned home from a rehabilitation facility 
___ and began experiencing progressive SOB, which prompted 
her to seek an outpatient appointment with her PCP; she was sent 
to the hospital after that appointment.
The clinical course of her liver disease has been excellent 
since hospital discharge: ascites abated, nutritional status 
improving, no further hepatic decompensation.
Per the patient, the SOB is worst when lying down. She does have
a h/o asthma, but did not require medications in the past 
(occasional, moderate symptoms were relieved by albuterol). Has 
a
dog, house was cleaned with noxious cleansers just prior to her 
return from rehabilitation. Thinks that some foods worsen her 
SOB (wheat/rye). Some cough, with clear phlegm, clear. Has a 
Dubhoff tube, placement was seen on last CXR. Some wheezing, 
notes some orthopnea, no PND, some swelling of legs. Previously 
smoked 1ppd, quit ___ years ago.
She has been afebrile.
CT chest performed on admission ___ reveals background 
emphysema with bronchial wall thickening, likely representing 
chronic bronchitis/bronchiolitis; no focal opacification 
concerning for pneumonia; 4 mm polypoid soft tissue density in 
the anterior trachea at the level of clavicles. 
 
Past Medical History:
PMH:
Cirrhosis (alcoholic)
Varices
Ulcerative colitis?
Right distal radius fracture
Variceal bleeds and placement ___ tube with visceral 
perforation during prolonged inpatient/ICU course 
___

PSH:
TIPS procedure

 
Social History:
___
Family History:
Mother deceased with COPD, father alive without medical issues, 
brother DM  
 

 
Physical ___:
Physical Examinaion on Admission:

VS: 97.8 AF 107/66 97 18 97% 3L
Gen: Sick appearing cachectic female, sitting up in bed. NAD. 
Breathing unlabored, speaking in full sentences.
HEENT: NG tube in place. Sclerae anicteric. 
Pulm: Some wheezes diffusely in R fields, absent on L. No rales 
or ronchi.
Cor: RRR no MRG.
Abd: Enlarged, firm liver easily palpable ~4+ cm below costal 
margin. Soft, nontender, distended abdomen.
Extr: No pedal edema.
Neuro: AOx3. Conversation on interview raised concern for 
possible moderate encephalopathy (some impaired memory and 
impaired thought processes) but no formal cognitive testing 
performed. CNs: PER, ___, TM. FSAE. Asterixis (bimanual). 
Patellar tendon reflexes 3+. Several beats of clonus on R. 

Physical Examination at Discharge:

VS: 98.5 99/62 6 18 97%RA
Gen: Sitting up in bed. NAD. Breathing unlabored, speaking in 
full sentences.
HEENT: NG tube in place. Sclerae anicteric. 
Pulm: Bilateral wheezes diffusely. No rales or ronchi.
Cor: RRR no MRG.
Abd: Enlarged, firm liver easily palpable ~4+ cm below costal 
margin. Soft, nontender, distended abdomen.
Extr: No pedal edema.
Neuro: AOx3, mentating normally. No asterixis. CNs: PER, ___, TM. 
FSAE. 
 
Pertinent Results:
___ 09:35PM BLOOD WBC-6.2 RBC-3.61* Hgb-12.3 Hct-37.8 
MCV-105* MCH-34.2* MCHC-32.6 RDW-16.6* Plt ___
___ 04:25AM BLOOD WBC-6.9 RBC-3.23* Hgb-10.9* Hct-33.2* 
MCV-103* MCH-33.7* MCHC-32.8 RDW-16.0* Plt ___
___ 09:35PM BLOOD Neuts-49.7* ___ Monos-7.8 
Eos-10.1* Baso-0.9
___ 04:25AM BLOOD Neuts-57.9 ___ Monos-9.7 Eos-1.2 
Baso-0.6
___ 09:35PM BLOOD ___ PTT-34.7 ___
___ 09:35PM BLOOD Glucose-145* UreaN-20 Creat-0.6 Na-141 
K-3.7 Cl-100 HCO3-33* AnGap-12
___ 04:25AM BLOOD Glucose-132* UreaN-22* Creat-0.6 Na-140 
K-3.5 Cl-100 HCO3-34* AnGap-10
___ 09:35PM BLOOD ALT-34 AST-54* AlkPhos-86 TotBili-0.6
___ 09:35PM BLOOD proBNP-382*
___ 09:35PM BLOOD D-Dimer-1263*

___ ___ F  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 8:43 ___ 

  
___   ___ 8:43 ___ 
CHEST (PA & LAT)   Clip # ___   
Reason: eval for volume overload  
 
UNDERLYING MEDICAL CONDITION: 
   History: ___ with dyspnea and cirrhosis  
REASON FOR THIS EXAMINATION: 
   eval for volume overload  

Final Report 
HISTORY:  Dyspnea and cirrhosis. 
  
TECHNIQUE:  PA and lateral views of the chest. 
  
COMPARISON:  ___ at 11:58. 
  
FINDINGS: 
  
Enteric tube remains in unchanged position.  Heart size is 
normal.  
Mediastinal and hilar contours are unremarkable.  Lungs are 
clear.  No focal 
consolidation, pleural effusion or pneumothorax is present.  
There are no 
acute osseous abnormalities. 
  
IMPRESSION: 
  
No acute cardiopulmonary process. 
 

___ ___  ___  ___ 
 
Radiology Report CTA CHEST W&W/O C&RECONS, NON-CORONARY Study 
Date of ___ 12:12 AM 
 
___   ___ 12:12 AM 
CTA CHEST W&W/O C&RECONS, NON-   Clip # ___   
Reason: Eval for PE  
Contrast: OMNIPAQUE Amt: 100 
 
UNDERLYING MEDICAL CONDITION: 
   History: ___ with dyspnea after prolonged bedrest.  
REASON FOR THIS EXAMINATION: 
   Eval for PE  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

Final Report 
INDICATION:  Dyspnea after prolonged bed rest, evaluate for 
pulmonary 
embolism. 
  
COMPARISON:  Comparison is made to chest radiograph from same 
day as well as 
CT torso performed ___. 
  
TECHNIQUE:  Intravenous contrast was administered and arterial 
phase imaging 
was acquired.  Coronal, sagittal and oblique reformats were 
provided. 
  
FINDINGS: 
  
CTA CHEST:  The pulmonary vasculature is well opacified and 
without filling 
defect to suggest embolus.  Minimal atherosclerotic change noted 
in the aortic 
arch.  No aneurysm or dissection evident.  Heart size is normal 
without 
pericardial effusion. 
  
CT CHEST:  Thyroid gland is unremarkable.  No lymphadenopathy. 
  
There is a 4 mm polypoid soft tissue density extending from the 
anterior 
aspect of the trachea at the level of the clavicles.  This area 
is not well 
assessed on the prior study as patient was intubated at that 
time.  There is 
bronchial wall thickening, most evident in the lower lobes.  
Airways are not 
well assessed on prior study due to collapsed pulmonary 
parenchyma and large 
effusion, but finding is likely chronic.  Background moderate 
emphysema is 
again noted.  No opacifications concerning for pneumonia 
identified.  No 
pleural effusion or pneumothorax is evident. 
  
Limited assessment of the upper abdomen demonstrates a TIPS. 
  
There is a 1-cm hypodensity in the left hepatic lobe, unchanged 
compared to 
___ and most consistent with a simple cyst.   
  
A 1.4 cm well-demarcated, rounded soft tissue density is noted 
within the 
medial aspect of the left breast. 
  
No suspicious lytic or blastic lesions present. 
  
IMPRESSION: 
1.  No pulmonary embolism or aortic pathology. 
2.  Background emphysema with bronchial wall thickening, 
particularly evident 
in the lower lobes likely represents a chronic 
bronchitis/bronchiolitis 
possibly due to smoking.  No focal opacification concerning for 
pneumonia. 
3.  A 4 mm polypoid soft tissue density in the anterior trachea 
at the level 
of clavicles.  Recommend non-emergent evaluation with direct 
visualization. 
4.  A 1.4 cm smoothly rounded soft tissue density in the medial 
aspect of the 
left breast, unchanged compared to ___.  Recommend 
correlation with 
mammogram. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: WED ___ 9:32 AM 

 
Brief Hospital Course:
SUMMARY:

Ms. ___ is a ___ former smoker (mother died of COPD) w EtOH 
cirrhosis and recent extended hospitalization (___) for 
massive variceal bleed & visceral perforation with placement of 
___ tube. She presented with 2w of worsening SOB and was 
admitted out of concern for COPD/asthma exacerbation vs CHF.

She was admitted on ___ with shortness of breath. 
Evidently her symptoms began soon after returning home from a 
rehabilitation facility, following her hospital stay here from 
___ to ___ for a bleeding crisis due to 
alcohol-induced liver disease. She experienced increasing 
shortness of breath while at home, and saw her primary care 
physician for that symptom on ___. She had a chest X-ray 
performed, which showed some lung disease (emphysema and chronic 
bronchitis, likely associated with past smoking (quit ___ years 
ago), but no evidence of pneumonia. On admission, her CBC was 
notable for WBC 6.2 with eosinophilia 10.1%; after 
administration of prednisone her eosinophilia resolved to WBC 
6.9 Eo 1.2. We believe her shortness of breath was due either to 
an exacerbation of her asthma or to an exacerbation of COPD. 
While in the hospital she initially required supplemental 
oxygen. She was treated with a prednisone taper (started at 40 
mg), and her symptoms improved quickly. She also received 
albuterol nebulizer treatments, azithromycin (empiric pneumonia 
coverage and anti-inflammatory) and fexofenadine to help 
mitigate any allergic triggers of the asthma. Even as her 
respiratory symptoms improved, her oxygen saturation continued 
to drop to 85% when she walked short distances. We therefore 
held her in the hospital for an extra day; on the evening of ___ 
___ she was able to maintain oxygen saturation of 92% while 
walking. She was discharged the following day, ___.

ACTIVE ISSUES:

SOB: Eosinophilia and high bicarbonate with CT imaging 
suggesting chronic bronchitis and no focal opacification 
concerning for pneumonia raised concern for COPD flare (perhaps 
also asthma flare). Possibly triggered by dust or dog at home. 
She was treated with prednisone 40 mg PO on a 10-day taper, 
albuterol nebulizers, azithromycin (5d course). Her peak flow 
was measured to be 100 (down from baseline >400) on ___ ___. She 
was also prescribed fexofenadine to mitigate any allergic 
component of this flare and as prophylaxis as she returns home. 
Consider long-term therapy with fluticasone as outpatient.

Cardiac Function: Little clinical concern for diastolic heart 
failure or fluid overload. Her proBNP was high, but decreased 
relative to ___ values:
___ 21:35    382 
___ 05:52    606 
TTE and further workup were not pursued after she improved with 
steroid therapt.

CHRONIC ISSUES:

Liver Disease: Alcoholic cirrhosis sp massive variceal bleeds 
(on nadolol, Lasix, spironolactone) and complicated by hepatic 
encephalopathy (on Rifaximin) sp TIPS procedure. Her liver 
disease was not addressed during this admission, and she was 
maintained on her home regimen:
Nadolol 20 mg
Furosemide 20 mg
Spironolactone 50 mg 
Lactulose: Concern for hepatic encephalopathy, no asterixis, 
given once, resulted in diarrhea and poor continence, 
subsequently held.
Rifaximin 550 mg
Active type & screen were maintained, IV access was maintained 
until discharge as a precaution.

TRANSITIONAL ISSUES:

Incidentalomas:

# CT chest from ___ shows a 4mm lesion in the trachea at 
level of the clavicles, non-urgent direct visualization 
recommended. Should f/u with ENT.

# CT chest from ___ shows a 1.4 cm smoothly rounded soft 
tissue density in the medial aspect of the left breast, 
correlation with mammogram recommended in outpatient setting.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Miconazole Nitrate Vag Cream 2% 1 Appl VG BID Duration: 7 
Days  
2. Nadolol 20 mg PO BID 
3. Furosemide 20 mg PO DAILY 
4. Spironolactone 50 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Rifaximin 550 mg PO BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Miconazole Nitrate Vag Cream 2% 1 Appl VG BID Duration: 7 
Days  
4. Nadolol 20 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Rifaximin 550 mg PO BID 
7. Spironolactone 50 mg PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth once daily Disp #*2 
Tablet Refills:*0
10. Fexofenadine 60 mg PO BID 
RX *fexofenadine 60 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
11. PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 0. . . . Disp #*22 Tablet Refills:*0
12. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
COPD/asthma exacerbation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
It was a privilege to participate in your care while you were a 
patient on the Medicine Service at the ___ 
___. 
Please find here a summary description of the care you received 
while you were a patient here, together with instructions for 
continuing your care after you leave the hospital. 
Please accept my best wishes for your recovery.
Sincerely,
___ ___

You were admitted on ___ with shortness of breath. 
Evidently your symptoms began soon after you returned home from 
a rehabilitation facility, following your hospital stay here 
from ___ to ___ for the bleeding crisis due to your 
liver disease. You experienced increasing shortness of breath 
while at home, and saw your primary care physician for that 
symptom on ___. You had a chest X-ray performed, which 
showed some lung disease (emphysema and chronic bronchitis, 
likely associated with your past smoking), but no evidence of 
pneumonia. We believe your shortness of breath is due either to 
an exacerbation of your asthma, or to an exacerbation of the 
chronic bronchitis seen on your chest X-ray. While in the 
hospital, you initially required supplemental oxygen. You were 
treated with prednisone, and your symptoms improved quickly. You 
also received albuterol nebulizer treatments, and azithromycin, 
an antibiotic that was given in case of pneumonia and that is 
also used for its anti-inflammatory effects in the lungs. We 
also prescribed fexofenadine, an antihistamine medication that 
may help mitigate any allergic triggers of your asthma. Even as 
your respiratory symptoms improved, your oxygen saturation 
continued to drop to 85% when you walked short distances. We 
therefore held you in the hospital for an extra day; on the 
evening of ___ you were able to maintain oxygen 
saturation of 91-92% while walking. You were discharged the 
following day, ___.

The following are some important instructions for continuing 
your care after you leave the hospital:
1. Please continue to take all of the medications prescribed for 
your liver disease, and continue to follow up with your liver 
doctors.
2. Please continue to take the prednisone until you complete the 
10-day taper begun the day you were admitted.
3. Please follow up with your primary care physician.
 
Followup Instructions:
___